US09328138B2
Step 1: (±)-(1R,2S)-2-(but-3-en-1-yl)-1-methylcyclopentanol
To a 0° C. solution of butenyl magnesium chloride (45.6 mL, 0.5 M) was added copper(I) chloride (0.113 g) followed by methylcyclopropane oxide (1.12 g) in diethyl ether (5 ml). The reaction mixture was warmed to room temperature and stirred for 20 hours. The mixture was cooled back to 0° C. before pouring into a saturated solution of ammonium chloride (at 0° C.). The mixture was extracted with ethyl acetate (3×). The combined organic fractions were dried over magnesium sulfate, filtered and concentrated carefully. The residue was purified by flash chromatography (ISCO, 0 to 30% ethyl acetate in hexanes) to give the desired product (1.3 g). 1H NMR (400 MHz, CDCl3): δ (ppm) 5.86-5.79 (m, 1H), 5.05-4.99 (m, 1H), 4.97-4.93 (m, 1H), 2.20-2.09 (m, 1H), 2.02-1.92 (m, 2H), 1.73-1.50 (m, 7H), 1.31-1.10 (m, 5H).

reactant | butenyl magnesium chloride | 0.5 M, 45.6 mL | C(=CCC)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
catalyst | copper(I) chloride | 0.113 g | [Cu]Cl
product | (±)-(1R,2S)-2-(but-3-en-1-yl)-1-methylcyclopentanol | 1.3 g | C(CC=C)[C@H]1[C@@](CCC1)(O)C | C10H18O
